US08309600B2
To a solution of 2-chloro-2-ethoxyacetic acid ethyl ester (10 g, 60 mmol) in chloroform (30 mL) was added triphenylphosphine (15.7 g, 60 mmol) and stirred overnight at room temperature. The solvent was removed in vacuo, and diethyl ether was added. The solvent was again removed and dried on high vacuum to give (1,2-diethoxy-2-oxoethyl)triphenylphosphonium chloride (21 g, 82% yield) (679) as a foamy solid.

reactant | 2-chloro-2-ethoxyacetic acid ethyl ester | 60 mmol, 10 g | C(C)OC(C(OCC)Cl)=O | C6H11ClO3
reactant | triphenylphosphine | 60 mmol, 15.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | (1,2-diethoxy-2-oxoethyl)triphenylphosphonium chloride | 21 g, 82% yield | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H26O3P.ClH/c1-3-26-23(25)24(27-4-2)28(20-14-8-5-9-15-20,21-16-10-6-11-17-21)22-18-12-7-13-19-22;/h5-19,24H,3-4H2,1-2H3;1H/q+1;/p-1
